US08633319B2
N-[4-({2-[(6-aminohexyl)(2-{4-[(methylsulfonyl)amino]phenyl}ethyl)amino]ethyl}oxy)phenyl]methanesulfonamide
Crude N-[4-({2-[[6-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)hexyl](2-{4-[(methylsulfonyl)amino]phenyl}ethyl)amino]ethyl}oxy)phenyl]methanesulfonamide (142 mg) was dissolved in methylamine (33% in ethanol, 10 ml, 0.216) and left at 22° C. for 48 h. Excess reagent was evaporated under reduced pressure and the oily residue azeotroped with two further portions of ethanol. The crude product was dissolved in acetonitrile/water/acetic acid (5/4/, <2 ml), half applied to a Phenomenex Jupiter C18 HPLC column and eluted using the following gradient (flow rate=10 ml/min, AU 20.0, 214 nm, AU 10, 256 nm, A=0.1% TFA/water, B=90% acetonitrile/10% water/0.1% TFA): t=0 min: B=5%; t=10 min: B=5%; t=100 min: B=35%; t=115 min: B=100%; t=130 min: B=100%. Fractions containing mainly the slower eluting component (>90%) were pooled and evaporated to give the title compound (14.9 mg). The remaining crude was applied to the C18 column but with a modified gradient: t=0 min: B=5%; t=10 min: B=5%; t=15 min: B=10%; t=95 min: B=30%; t=110 min: B=100%; t=125 min: B=100%. Fractions containing mainly the desired product were combined and evaporated as before to yield the title compound (21.3 mg˜80% purity). The material was used without further purification.

reactant | N-[4-({2-[[6-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)hexyl](2-{4-[(methylsulfonyl)amino]phenyl}ethyl)amino]ethyl}oxy)phenyl]methanesulfonamide | 142 mg | O=C1N(C(C2=CC=CC=C12)=O)CCCCCCN(CCOC1=CC=C(C=C1)NS(=O)(=O)C)CCC1=CC=C(C=C1)NS(=O)(=O)C | C32H40N4O7S2
solvent | methylamine | 10 ml | CN | CH5N
product | N-[4-({2-[(6-aminohexyl)(2-{4-[(methylsulfonyl)amino]phenyl}ethyl)amino]ethyl}oxy)phenyl]methanesulfonamide | 14.9 mg | NCCCCCCN(CCOC1=CC=C(C=C1)NS(=O)(=O)C)CCC1=CC=C(C=C1)NS(=O)(=O)C | C24H38N4O5S2
